US09371321B2
Step B: tert-Butyl (S)-3-((5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate
To a solution of tert-butyl (S)-3-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate (27.4 mg, 0.060 mmol) and 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (17.20 mg, 0.102 mmol) in DMSO (2 mL) was added triethylamine (0.046 mL, 0.330 mmol) at room temperature. The reaction mixture was stirred at 90° C. for 5 hours. The solvent was removed with a stream of nitrogen. The crude title compound was used without further purification. ESI-MS m/z [M+H]+ calc'd for C25H33N9O2, 492. found 492.

reactant | tert-butyl (S)-3-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate | 0.060 mmol, 27.4 mg | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N(C2CN(C2)C(=O)OC(C)(C)C)C | C19H29N5O2
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.102 mmol, 17.20 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | triethylamine | 0.330 mmol, 0.046 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | tert-Butyl (S)-3-((5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N(C2CN(C2)C(=O)OC(C)(C)C)C)C#N)C | C25H33N9O2
